US05840751
5,6-Dihydro-4-hydroxy-3-(3-methylphenylthio)-6-phenyl-6-(2-phenylethyl)-2H-pyran-2-one (+/-)
The title compound was prepared as described in General Method 6 from 2.0 mmol of 3-bromo-5,6-dihydro-4-hydroxy-6-phenyl-6-(2-phenylethyl)-2H-pyran-2-one (prepared in example BBB), 2.2 mmol of 3-methylbenzenethiol, and 2.2 mmol of piperidine in 30 mL of dichloromethane. The crude product was chromatographed on silica gel, eluting first with chloroform and then with 5% methanol in chloroform, to give the title compound (m.p. 68°-70° C.). 1H NMR (DMSO-d6) δ 2.06 (s, 3 H), 2.18-2.36 (m, 3 H), 2.60 (m, 1 H), 3.38 (2 H+H2O), 6.26 (d, 1 H), 6.46 (s, 1 H), 6.75 (m, 1 H), 6.83 (t, 1 H), 7.15 (m, 3 H), 7.24 (m, 2 H), 7.45 (m, 5 H).

reactant | 3-bromo-5,6-dihydro-4-hydroxy-6-phenyl-6-(2-phenylethyl)-2H-pyran-2-one | 2.0 mmol | BrC=1C(OC(CC1O)(CCC1=CC=CC=C1)C1=CC=CC=C1)=O | C19H17BrO3
reactant | 3-methylbenzenethiol | 2.2 mmol | CC=1C=C(C=CC1)S | C7H8S
reactant | piperidine | 2.2 mmol | N1CCCCC1 | C5H11N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 5,6-Dihydro-4-hydroxy-3-(3-methylphenylthio)-6-phenyl-6-(2-phenylethyl)-2H-pyran-2-one | OC1=C(C(OC(C1)(CCC1=CC=CC=C1)C1=CC=CC=C1)=O)SC1=CC(=CC=C1)C | C26H24O3S
